* D:\BR\GIT\BSPD_PCB\Simulation\BSPD_SIM.asc
R8 0 N003 10.2K tol=1 pwr=0.1
R9 N003 N002 475K tol=1 pwr=0.1
R10 N002 N004 16.2K tol=1 pwr=0.1
R11 N004 0 25.5K tol=1 pwr=0.1
XU3 N003 N001 N002 0 TPSSrtGND LT1017
XU4 N005 N004 N002 0 TPS>25% LT1017
R12 TPSSrtGND N003 243K tol=1 pwr=0.1
R13 N005 N001 10K tol=1 pwr=0.1
R14 TPS>25% N005 402K tol=1 pwr=0.1
V4 N002 0 5
R1 0 N013 10.2K tol=1 pwr=0.1
R2 N013 N011 475K tol=1 pwr=0.1
R3 N011 N015 43.2K tol=1 pwr=0.1
R4 N015 0 13k tol=1 pwr=0.1
XU1 N013 N010 N011 0 BPSrtGND LT1017
XU2 N018 N015 N011 0 BP>30Bar LT1017
R5 BPSrtGND N013 243K tol=1 pwr=0.1
R6 N018 N010 10K tol=1 pwr=0.1
R7 BP>30Bar N018 249K tol=1 pwr=0.1
V1 N011 0 5
R15 N031 N008 97.6K tol=1 pwr=0.1
C1 N033 N031 3.3µ V=16 Irms=4.84 Rser=0.00925238 Lser=0 mfg="KEMET" pn="C1206C335K4RAC" type="X7R"
V6 N028 0 5
R17 N016 0 100K tol=1 pwr=0.1
XU6 N020 N016 N014 0 falsesetaus LT1017
R18 N020 N019 10K tol=1 pwr=0.1
R19 falsesetaus N020 124K tol=1 pwr=0.1
R20 N014 N016 51.1K tol=1 pwr=0.1
V8 N014 0 5
XU7 N032 N019 N028 0 N019 AD712
Q1 P001 N035 N032 0 2N2907
A4 N008 0 N009 0 0 BSPDaus !BSPDaus 0 DFLOP Vhigh=5 Vlow=0
A5 falsesetaus 0 0 0 0 N017 0 0 BUF Vhigh=5 Vlow=0
XU9 0 N026 N022 0 N030 LT1017
R25 N026 N029 100K tol=1 pwr=0.1
C2 N030 N026 150µ V=16 Irms=1.75713 Rser=0.08 Lser=0 mfg="KEMET" pn="T521X157M016ATE080" type="Tantalum"
V9 N022 0 5
XU10 N027 N023 N022 0 N023 AD712
Q2 P002 N034 N026 0 2N2907
R16 N033 N031 499K tol=1 pwr=0.1
A6 !BSPDaus 0 0 0 N017 0 N029 0 AND Vhigh=5 Vlow=0
R23 N035 N008 100K tol=1 pwr=0.1
R21 N034 N029 100K tol=1 pwr=0.1
R22 N030 N026 499K tol=1 pwr=0.1
R24 N024 0 100K tol=1 pwr=0.1
XU8 N025 N024 N021 0 N012 LT1017
R26 N025 N023 10K tol=1 pwr=0.1
R27 N012 N025 124K tol=1 pwr=0.1
R28 N021 N024 118K tol=1 pwr=0.1
V5 N021 0 5
A8 TPS>25% BP>30Bar 0 0 0 0 N006 0 AND Vhigh=5 Vlow=0
A9 TPSSrtGND BPSrtGND 0 0 0 0 N007 0 OR Vhigh=5 Vlow=0
A10 N006 N007 0 0 0 0 N008 0 OR Vhigh=5 Vlow=0
V2 N001 0 PULSE(0 5.5 2 25 35 2 65)
V3 N010 0 PULSE(0 5.5 2 25 35 2 65)
R29 0 P001 100 tol=1 pwr=0.1
R30 0 P002 100
A1 0 0 falsesetaus 0 N012 0 N009 0 OR Vhigh=5 Vlow=0
XU5 0 N031 N028 0 N033 LT1017
D1 N026 N027 BAT46WJ
D2 N031 N032 BAT46WJ
.model D D
.lib C:\Users\lukas\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\lukas\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 200
* 500ms integrator
* 500ms integrator trigger
* 10s integrator
* 10s integrator switch
* TPS fault detection
* Brake flault detection
* Set to 3.125 and 3V
* Set to 0.3 and 0.1V
* Set To 1.2 and 1V
* Set to 0.3 and 0.1V
* bis 100k Trimmpoti
* bis 100k Trimmpoti
.lib ADI1.lib
.lib LTC1.lib
.backanno
.end
