* Y:\Technik\Technik 2022\05 - Electronics\02 - HV\01 - HV Accumulator\02 - ECAD\02 - PCB Files\BSPD_PCB\Simulation\Sensorboard_Sim.asc
I1 0 Signal SINE(0.05 0.05 1)
R1 Signal 0 500
D1 0 Signal 1N750
R3 P001 Signal 23.5k
V1 P001 0 24V
.model D D
.lib C:\Users\Admin\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5
.backanno
.end
